US07968573B2
To a mixture of 1.5 g of 2-amino-5-chlorobenzoic acid and 100 ml of N,N-dimethylformamide was added 1.8 g of N-bromosuccinimide at room temperature, and the mixture was stirred at room temperature for 10 hours. After 30 ml of water was poured into the reaction mixture, the mixture was extracted with ethyl acetate three times. The organic layers were combined, washed with an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain 1.2 g of 2-amino-5-bromo-3-methylbenzoic acid of the formula:

reactant | 2-amino-5-chlorobenzoic acid | 1.5 g | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | N-bromosuccinimide | 1.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | water | 30 ml | O | H2O
product | 2-amino-5-bromo-3-methylbenzoic acid | 1.2 g | NC1=C(C(=O)O)C=C(C=C1C)Br | C8H8BrNO2
